US07101898B2
1.9 g of (E)-3-(4-(1,2,4-triazol-1-yl)phenyl)acrylic acid were prepared as described for (E)-3-(4-(methanesulfonyloxy)phenyl)acrylic acid, using 4-(1,2,4-triazol-1-yl)benzaldehyde instead of methanesulfonic acid 4-formylphenyl ester.

reactant | (E)-3-(4-(methanesulfonyloxy)phenyl)acrylic acid | CS(=O)(=O)OC1=CC=C(C=C1)/C=C/C(=O)O | C10H10O5S
reactant | 4-(1,2,4-triazol-1-yl)benzaldehyde | N1(N=CN=C1)C1=CC=C(C=O)C=C1 | C9H7N3O
product | (E)-3-(4-(1,2,4-triazol-1-yl)phenyl)acrylic acid | 1.9 g | N1(N=CN=C1)C1=CC=C(C=C1)/C=C/C(=O)O | C11H9N3O2
